US07645789B2
A suspension of (E)-2-(2,4-dinitro-5-(trifluoromethyl)phenyl)-N,N-dimethylethenamine (2.1 g, 6.9 mmol) and Raney Nickel (1 g) in ethanol (80 mL) was stirred under H2 (1 atm) at room temperature for 5 h. The catalyst was filtered off and the filtrate was concentrated to dryness. The residue was purified by column on silica gel to give 5-(trifluoromethyl)-1H-indol-6-amine (200 mg, 14%). 1H NMR (DMSO-d6) δ 10.79 (br s, 1H), 7.55 (s, 1H), 7.12 (s, 1H), 6.78 (s, 1H), 6.27 (s, 1H), 4.92 (s, 2H); MS (ESI) m/e (M+H+): 200.8.

reactant | (E)-2-(2,4-dinitro-5-(trifluoromethyl)phenyl)-N,N-dimethylethenamine | 6.9 mmol, 2.1 g | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)/C=C/N(C)C | C11H10F3N3O4
catalyst | Raney Nickel | 1 g | [Ni] | Ni
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 5-(trifluoromethyl)-1H-indol-6-amine | 200 mg, 14% | FC(C=1C=C2C=CNC2=CC1N)(F)F | C9H7F3N2
